US04443459
3.92 g of 5-(4-hydroxybutyl)picolinic acid was dissolved in 20 ml of pyridine, and with stirring under ice cooling, a solution of 4.6 g of carbobenzyloxy chloride in 20 ml of toluene was added dropwise. Under ice cooling, the mixture was reacted for 2 hours. Then, the reaction mixture was poured into ice water, and extracted with toluene. The extract was washed successively with water, 1 N hydrochloric acid and then with water, and the toluene was distilled off to give 5.7 g of 5-(4-carbobenzyloxybutyl)picolinic acid.

reactant | 5-(4-hydroxybutyl)picolinic acid | 3.92 g | OCCCCC=1C=CC(=NC1)C(=O)O | C10H13NO3
reactant | carbobenzyloxy chloride | 4.6 g | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-carbobenzyloxybutyl)picolinic acid | 5.7 g | C(=O)(OCC1=CC=CC=C1)CCCCC=1C=CC(=NC1)C(=O)O | C18H19NO4
